US05380865
A mixture of 2-(2,6-dichloro-4-trifluoromethylphenyl)-4,5-dicyanoimidazole (3.3 g, 0.01 mol), ethanol (10 ml) and concentrated hydrochloric acid (10 ml) was stirred and heated at reflux for 24 hours. After cooling the mixture was poured into water (50 ml) and extracted with dichloromethane (2×50 ml). The combined extracts were washed with water (50 ml), dried over anhydrous sodium sulphate and evaporated to dryness. The residue was purified by mplc of silica eluted with a mixture of ethyl acetate and petroleum spirit (b.p. 60°-80° C.) (1:1) to give ethyl 5-cyano-2-(2,6-dichloro-4-trifluoromethyl-phenyl)-imidazole-4-carboxylate (0.35 g) m.p. 180°-181° C., after recrystallisation from a mixture of toluene and petroleum spirit (b.p. 60°-80° C.) (1:2), as a white solid.

reactant | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4,5-dicyanoimidazole | 0.01 mol, 3.3 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC(=C(N1)C#N)C#N | C12H3Cl2F3N4
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | water | 50 ml | O | H2O
product | ethyl 5-cyano-2-(2,6-dichloro-4-trifluoromethyl-phenyl)-imidazole-4-carboxylate | 0.35 g | C(#N)C1=C(N=C(N1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(=O)OCC | C14H8Cl2F3N3O2
